US07186742B2
2-Chloro-N-(1-hydroxy-cycloheptylmethyl)-5-(2H-[1,2,3]triazol-4-yl)-benzamide
To a solution of 2-chloro-5-(2H-[1,2,3]triazol-4-yl)-benzoic acid (0.03 g, 0.136 mmol) in DMF (1.0 mL) was added 1-hydroxybenzotriazole (28 mg, 0.204 mmol), polystyrene supported 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (0.4 g, 0.4 mmol) and 1-aminomethyl-cycloheptanol hydrochloride (0.036 g, 0.204 mmol). The mixture was stirred at room temperature for 10 minutes, then polystyrene supported N,N-dimethylaminopyridine (0.2 g, 0.29 mmol) was added and the mixture was shaken at room temperature for 16 h. MP-carbonate was added (200 mg) and the mixture was shaken at room temperature for 3 h. The mixture was filtered and washed with methanol. the filtrate was concentrated in vacuo and purified by reverse phase chromatography to afford the title compound (22 mg). LCMS (m/z) 349.3 M+1.

reactant | 2-chloro-5-(2H-[1,2,3]triazol-4-yl)-benzoic acid | 0.136 mmol, 0.03 g | ClC1=C(C(=O)O)C=C(C=C1)C1=NNN=C1 | C9H6ClN3O2
reactant | 1-hydroxybenzotriazole | 0.204 mmol, 28 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 0.4 mmol, 0.4 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | 1-aminomethyl-cycloheptanol hydrochloride | 0.204 mmol, 0.036 g | Cl.NCC1(CCCCCC1)O
reactant | carbonate | C([O-])([O-])=O
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | 2-Chloro-N-(1-hydroxy-cycloheptylmethyl)-5-(2H-[1,2,3]triazol-4-yl)-benzamide | 22 mg | ClC1=C(C(=O)NCC2(CCCCCC2)O)C=C(C=C1)C1=NNN=C1 | C17H21ClN4O2
